2186-04-15 07:06:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -Had 3/10 chest pain overnight. Got morphine 1 mg IV. 30 minutes later,
   nauseas, SBP decreased to 80-90s. Exam otherwise unremarkable. Pulsus
   4. Gave Zofran 4 mg IV + NS 250 cc, with improvement in symptoms.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-4-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-15**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 58 (55 - 90) bpm
   BP: 125/81(91) {82/48(58) - 128/90(98)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                    957 mL
                                                                    197 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    357 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    957 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: NAD.
   NECK: Supple. JVP not elevated.
   CARDIAC: RRR, normal S1, S2. II/VI crescendo-decrescendo murmur at LSB,
   augmented by clenching fists.
   LUNGS: CTAB
   ABDOMEN: Soft, NTND.
   EXTREMITIES: Transvenous pacing wire in right groin. No edema.
   PULSES:
   Right: Radial 2+ DP 2+ PT 2+
   Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   215 K/uL
   14.3 g/dL
   104 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   140 mEq/L
   39.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:26 PM
                             [**2186-4-15**]  04:23 AM
   WBC
   9.5
   8.7
   Hct
   41.0
   39.7
   Plt
   213
   215
   Cr
   1.1
   0.9
   TropT
   0.48
   0.67
   Glucose
   120
   104
   Other labs: PT / PTT / INR:/47.8/, CK / CKMB / Troponin-T:325/40/0.67,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   43yo M with hypertrophic cardiomyopathy s/p septal ablation complicated
   by transient AV block s/p temporary pacing wire.
   .
   # Hypertrophic cardiomyopathy s/p septal ablation:
   - holding disopyramide for now; discuss when to restart with Dr. [**Last Name (STitle) 4235**]
   - bedrest while sheath in place
   - trend cardiac enzymes; serial EKGs
   - ASA 325 mg daily
   .
   # Complete Heart Block: Complication of septal ablation. Resolved.
   - temp pacing wire in place for 48 hours
   - heparin gtt while temp wire in place (goal PTT 50)
   - check pacing wire at 10 a.m. and 10 p.m. daily to check threshold.
   Most recently 0.4.
   - serial EKGs
   .
   # Dyslipidemia:
   - continue Lipitor
   .
   # EtOH use:
   - will monitor with CIWA
   - diazepam 5mg Q6H prn CIWA > 10
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2186-4-14**] 07:00 PM
   18 Gauge - [**2186-4-14**] 07:04 PM
   Prophylaxis:
   DVT: heparin IV as above
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   CCU Attending Progress Note
   I agree with the detailed note by Dr. [**Last Name (STitle) 529**] delineated today.
   History and Physical.   I agree with the documented history and
   physical examination.  I concur with the treatment plan outlined
   above.
   Medical Decision Making.   Mr. [**Known lastname 12100**] [**Last Name (Titles) 5766**] septal ablation
   yesterday with alcohol.   Has has done well with a reduction of the
   gradient but has now developed complete heart block.  We will ask EP to
   consult about the need for permanent  pacemaker placement.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2186-4-15**] 16:37 ------

2186-04-16 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -went into complete heart block on tele. EP evaluated. Has VVI pacing
   backup (currently set to VVI 30).  If recovery of conduction does not
   occur, will need permanent pacemaker. Still in complete heart block
   this am on tele. Am EKG pending
   [**Doctor Last Name 4235**] said give 1/2 dose disopyramide today , f/u with him for recs
   tomorrow.
   CK's peaked at  425, Trops still rising f/u am set.
   -On CIWA scale -not [**Doctor Last Name 2110**]
   -moderate dyspnea y/d pm checked CXR, unchanged. dyspnea resolved.
   Echo: EF? 60% There is moderate symmetric left ventricular hypertrophy.
   There is a mild resting left ventricular outflow tract obstruction.
   Right ventricular chamber size and free wall motion are normal. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. There is no mitral valve prolapse. There is
   systolic anterior motion of the mitral valve leaflets. Mild (1+) mitral
   regurgitation is seen.
   Compared with the prior study (images reviewed) of [**2186-4-14**], findings
   are similar. There is mild LVH, moder significant LVH at the basal
   septum, with a small resting gradient and systolic anterior motion of
   the mitral valve. Wall thicknesses may have been UNDERestimated on
   prior.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-16**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 46 (42 - 81) bpm
   BP: 104/62(72) {88/43(46) - 131/82(97)} mmHg
   RR: 20 (8 - 23) insp/min
   SpO2: 96%
   Heart rhythm: 3rd AV (Complete Heart Block)
   Wgt (current): 813 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,845 mL
                                                                    197 mL
   PO:
                                                                  1,300 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    545 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                      0 mL
   Urine:
                                                                  3,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,955 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: NAD.
   NECK: Supple. JVP not elevated.
   CARDIAC: RRR, normal S1, S2. II/VI late peaking crescendo-decrescendo
   murmur at LSB, augmented by clenching fists.
   LUNGS: CTAB
   ABDOMEN: Soft, NTND.
   EXTREMITIES: Transvenous pacing wire in right groin. No edema, hematoma
   or bruit
   PULSES:
   Right: Radial 2+ DP 2+ PT 2+
   Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   215 K/uL
   14.3 g/dL
   104 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   140 mEq/L
   39.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:26 PM
                             [**2186-4-15**]  04:23 AM
   WBC
   9.5
   8.7
   Hct
   41.0
   39.7
   Plt
   213
   215
   Cr
   1.1
   0.9
   TropT
   0.48
   0.67
   Glucose
   120
   104
   Other labs: PT / PTT / INR:/59.8/, CK / CKMB / Troponin-T:325/40/0.67,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 .H/O CARDIOMYOPATHY, HYPERTROPHIC
   43yo M with hypertrophic cardiomyopathy s/p alcohol septal ablation who
   did well with respect to reduction in gradient, but procedure was
   complicated by transient AV block s/p temporary pacing wire now in
   complete heart block.
   .
   43yo M with hypertrophic cardiomyopathy s/p septal ablation complicated
   by transient AV block s/p temporary pacing wire.
   .
   # Hypertrophic cardiomyopathy s/p septal ablation:
   - holding disopyramide for now; discuss when to restart with Dr. [**Last Name (STitle) 4235**]
   - bedrest while sheath in place
   - trend cardiac enzymes; serial EKGs
   - ASA 325 mg daily
   .
   # Complete Heart Block: Complication of septal ablation. Resolved.
   - temp pacing wire in place for 48 hours, set VVI 30 MA 2.
   - heparin gtt while temp wire in place (goal PTT 50)
   - check pacing wire at rounds. daily to check threshold. Most recently
   0.4.
   -consider permanent pacemaker if does not revert within 24 hours.
    appreciate EP recs.
   - serial EKGs
   .
   # Dyslipidemia:
   - continue Lipitor
   .
   # EtOH use:
   - will monitor with CIWA
   - diazepam 5mg Q6H prn CIWA > 10
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2186-4-14**] 07:00 PM
   18 Gauge - [**2186-4-14**] 07:04 PM
   Prophylaxis:
   DVT: heparin IV as above
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   CCU Attending Progress Note
   I agree with the detailed note by Dr. [**Last Name (STitle) 12053**] delineated today.
   History and Physical.   I agree with the documented history and
   physical examination.  I concur with the treatment plan outlined
   above.
   Medical Decision Making.   Mr. [**Known lastname 12100**] [**Last Name (Titles) 5766**] septal ablation
   with alcohol on Friday.   He has done well with a reduction of the
   gradient but has developed complete heart block.  EP plans for
   permanent  pacemaker placement and ICD placement this week.  A small
   groin hematoma has been managed conservatively.   We will continue CCU
   care pending placement of his PPM.  We are restarting disopyrimide and
   verapamil at reduced dosages.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2186-4-16**] 12:59 ------

2186-04-17 07:30:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - had some bleeding/pain in groin site after pulling himself up in bed
   - resolved with pressure
   - repeat CXR: As compared to the previous radiograph, the lung volumes
   have slightly decreased, likely to reflect a lesser inspiratory effort.
   The position of the pacing line is unchanged. Borderline size of the
   cardiac silhouette without evidence of pulmonary edema. No pleural
   effusions, no focal parenchymal opacities suggesting pneumonia.
   - did not get disopyramide dose, did not hear from Dr. [**Last Name (STitle) 4235**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-17**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 35 (30 - 55) bpm
   BP: 97/48(60) {93/48(60) - 127/70(80)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 813 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                    544 mL
                                                                    284 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    484 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    800 mL
   Urine:
                                                                  2,000 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,456 mL
                                                                   -516 mL
   Respiratory support
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD.
   NECK: Supple. JVP not elevated.
   CARDIAC: RRR, normal S1, S2. II/VI late peaking crescendo-decrescendo
   murmur at LSB, augmented by clenching fists.
   LUNGS: CTAB
   ABDOMEN: Soft, NTND.
   EXTREMITIES: Transvenous pacing wire in right groin. No edema, hematoma
   or bruit
   PULSES:
   Right: Radial 2+ DP 2+ PT 2+
   Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   189 K/uL
   13.5 g/dL
   111 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   37.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:26 PM
                             [**2186-4-15**]  04:23 AM
                             [**2186-4-16**]  05:33 AM
                             [**2186-4-17**]  04:51 AM
   WBC
   9.5
   8.7
   7.7
   8.7
   Hct
   41.0
   39.7
   39.4
   37.1
   Plt
   [**Telephone/Fax (3) 12135**]89
   Cr
   1.1
   0.9
   1.2
   1.1
   TropT
   0.48
   0.67
   0.91
   Glucose
   120
   104
   103
   111
   Other labs: PT / PTT / INR:12.2/50.1/1.0, CK / CKMB /
   Troponin-T:150/9/0.91, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   43yo M with hypertrophic cardiomyopathy s/p septal ablation complicated
   by transient AV block s/p temporary pacing wire.
   .
   # Hypertrophic cardiomyopathy s/p septal ablation:
   - holding disopyramide for now; discuss when to restart with Dr. [**Last Name (STitle) 4235**]
   - bedrest while sheath in place
   - trend cardiac enzymes; serial EKGs
   - ASA 325 mg daily
   .
   # Complete Heart Block: Complication of septal ablation. Resolved.
   - temp pacing wire in place for 48 hours, set VVI 30 MA 2.
   - heparin gtt while temp wire in place (goal PTT 50)
   - check pacing wire at rounds. daily to check threshold. Most recently
   0.4.
   -consider permanent pacemaker if does not revert within 24 hours.
    appreciate EP recs.
   - serial EKGs
   .
   # Dyslipidemia:
   - continue Lipitor
   .
   # EtOH use:
   - will monitor with CIWA
   - diazepam 5mg Q6H prn CIWA > 10
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2186-4-14**] 07:00 PM
   18 Gauge - [**2186-4-14**] 07:04 PM
   Prophylaxis:
   DVT: heparin IV as above
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2186-04-18 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Heparin drip stopped.
   Pt had been symptomatic with bradycardia, pacer reset from 30 to 60.
   V- pacing on Tele
   - complained of right  knee pain, no trauma, no prior hx; exam
   unremarkable; got ibuprofen and Percocet,
   Has pain with movement only
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-18**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 60 (35 - 66) bpm
   BP: 104/62(72) {97/51(62) - 122/93(98)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 83 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,440 mL
                                                                     64 mL
   PO:
                                                                  1,050 mL
             TF:
   IVF:
                                                                    390 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    650 mL
   Urine:
                                                                  2,750 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,310 mL
                                                                   -586 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GENERAL: NAD.
   CARDIAC: RRR, normal S1, S2. II/VI crescendo-decrescendo murmur at LSB,
   augmented by clenching fists.
   LUNGS: CTAB
   ABDOMEN: Soft, NTND.
   EXTREMITIES: Transvenous pacing wire in right groin. No edema, hematoma
   or bruit
   Right knee: TTP in suprapatellar region, no effusion, no erythema,
   limited ROM [**2-28**] pain, but worse with plantar extension, internal
   rotation
   PULSES:
   Right: Radial 2+ DP 2+ PT 2+
   Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   178 K/uL
   12.9 g/dL
   102 mg/dL
   1.0 mg/dL
   26 mEq/L
   5.0 mEq/L
   16 mg/dL
   104 mEq/L
   139 mEq/L
   37.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:26 PM
                             [**2186-4-15**]  04:23 AM
                             [**2186-4-16**]  05:33 AM
                             [**2186-4-17**]  04:51 AM
                             [**2186-4-18**]  04:46 AM
   WBC
   9.5
   8.7
   7.7
   8.7
   7.5
   Hct
   41.0
   39.7
   39.4
   37.1
   37.1
   Plt
   [**Telephone/Fax (3) 12135**]89
   178
   Cr
   1.1
   0.9
   1.2
   1.1
   1.0
   TropT
   0.48
   0.67
   0.91
   Glucose
   120
   104
   103
   111
   102
   Other labs: PT / PTT / INR:12.2/50.1/1.0, CK / CKMB /
   Troponin-T:150/9/0.91, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEART BLOCK, COMPLETE (CHB)
 .H/O CARDIOMYOPATHY, HYPERTROPHIC
   .
   43yo M with hypertrophic cardiomyopathy s/p septal ablation complicated
   by complete heart block, bradycardia s/p temporary pacing wire.
   .
   # Complete Heart Block: Complication of septal ablation. Persistent.
   - continue  demand rate at 60 due to symptomatic bradycardia
   -heparin GTT dc
   - check pacing wire at rounds daily to check threshold. Most recently
   0.4.
   - appreciate EP recs
   - plan for ICD implantation in a.m.; has been NPO after midnight
   .
   # Hypertrophic cardiomyopathy s/p septal ablation:
   - holding disopyramide for now; discuss when to restart with Dr. [**Last Name (STitle) 4235**]
   - bedrest while sheath in place
   - trend cardiac enzymes; serial EKGs
   - ASA 325 mg daily
   .
   # Right knee pain
   None without movement
   Hold motrin periop, Percocet PRN
   Consider plain films post op.
   .
   # Dyslipidemia:
   - continue Lipitor
   .
   # EtOH use:
   - will monitor with CIWA
   - diazepam 5mg Q6H prn CIWA > 10
   ICU Care
   Nutrition: regular diet; NPO after midnight for ICD implantation
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2186-4-14**] 07:00 PM
   18 Gauge - [**2186-4-14**] 07:04 PM
   Prophylaxis:
   DVT: heparin SC; d/c heparin at 2 a.m. for pacemaker implantation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2186-4-14**] 07:00 PM
   18 Gauge - [**2186-4-14**] 07:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: